US08232278B2
Synthesis of 2-amino-4-[(N-4-fluoro-phenyl-carbamoyl)-piperazin-1-yl]-6-(4-isopropoxy-3-methoxy-phenyl)-pyrido[3,2-d]pyrimidine
A suspension of 2-amino-4-[(N-4-fluoro-phenyl-carbamoyl)-piperazin-1-yl]-6-(4-hydroxy-3-methoxy-phenyl)-pyrido[3,2-d]pyrimidine (96 μmole), anhydrous potassium carbonate (0.22 mmole) and 2-iodopropane (0.96 mmole) in acetone (7 ml) was refluxed under a nitrogen atmosphere for 20 hours. Then, another aliquot of 2-iodopropane was added and the reaction was continued for another 24 hours. Upon cooling, the reaction mixture was partitioned between ethyl acetate and brine and the aqueous layer was extracted several times with ethyl acetate. The combined organic layers were dried over MgSO4, filtered and evaporated under reduced pressure. Purification of the crude residue by silica gel flash chromatography, using 10% methanol in CH2Cl2 as mobile phase, afforded the pure title compound (20 mg, yield 39%) which was characterized by its mass spectrum as follows: MS (m/z): 532 ([M+H]+, 100).

reactant | 2-amino-4-[(N-4-fluoro-phenyl-carbamoyl)-piperazin-1-yl]-6-(4-hydroxy-3-methoxy-phenyl)-pyrido[3,2-d]pyrimidine | 96 μmole | NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)O)OC)N2C(CNCC2)C(NC2=CC=C(C=C2)F)=O | C25H24FN7O3
reactant | potassium carbonate | 0.22 mmole | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.96 mmole | IC(C)C | C3H7I
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 2-amino-4-[(N-4-fluoro-phenyl-carbamoyl)-piperazin-1-yl]-6-(4-isopropoxy-3-methoxy-phenyl)-pyrido[3,2-d]pyrimidine | 20 mg, yield 39% | NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC(C)C)OC)N2C(CNCC2)C(NC2=CC=C(C=C2)F)=O | C28H30FN7O3
